US08865704B2
{trans-4-[(2-Amino-benzylamino)-methyl]-cyclohexyl}-(4-cyclopropane carbonyl-piperazin-1-yl)-methanone
(4-Cyclopropanecarbonyl-piperazin-1-yl)-{trans-4-[(2-nitrobenzylamino)-methyl]-cyclohexyl}methanone (272 mg, 0.63 mmol) and Pd(OAc)2 (7 mg, 0.03 mmol) were weighed into a flask and flushed with nitrogen for 5 minutes. THF (10 mL) was added, followed by a solution of KF (73 mg, 1.26 mmol in 1.2 ml of H2O). Then triethylsilane (0.40 mL, 2.52 mmol) was added drop wise and the reaction was left stirring for 3 h at room temperature. The mixture was filtered on a celite bed to remove palladium and the solution was concentrated under reduced pressure. The residue was suspended in DCM (4 mL) and washed with H2O (4 mL). The organic phase was collected and concentrated, the crude product was purified by SiO2 column, eluting with AcOEt:MeOH 80:20, affording 146 mg of the titled compound (57% yield).

reactant | (4-Cyclopropanecarbonyl-piperazin-1-yl)-{trans-4-[(2-nitrobenzylamino)-methyl]-cyclohexyl}methanone | 0.63 mmol, 272 mg | C1(CC1)C(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CNCC1=C(C=CC=C1)[N+](=O)[O-] | C23H32N4O4
reactant | KF | 1.26 mmol, 1.2 ml, 73 mg | [F-].[K+]
reactant | triethylsilane | 2.52 mmol, 0.40 mL | C(C)[SiH](CC)CC | C6H16Si
catalyst | Pd(OAc)2 | 0.03 mmol, 7 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | {trans-4-[(2-Amino-benzylamino)-methyl]-cyclohexyl}-(4-cyclopropane carbonyl-piperazin-1-yl)-methanone | 146 mg, 57% yield | NC1=C(CNC[C@@H]2CC[C@H](CC2)C(=O)N2CCN(CC2)C(=O)C2CC2)C=CC=C1 | C23H34N4O2
